US05866560
A solution of 32.8 g of 3-benzyloxy-17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraene in 328 ml of acetone and 32.8 ml of water is stirred at room temperature with 1.033 g of para-toluenesulfonic acid for 2 hours. Then, it is diluted with diethyl ether, washed with sodium bicarbonate and water, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloro-methane acetone. 25.4 g of 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetra-en-17-one is obtained.

reactant | 3-benzyloxy-17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraene | 32.8 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4C=CC5([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5)CCCCCO | C32H40O4
reactant | para-toluenesulfonic acid | 1.033 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 328 ml | CC(=O)C | C3H6O
solvent | water | 32.8 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-benzyloxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetra-en-17-one | 25.4 g | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4C=CC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCO | C30H36O3
